US08623877B2
2-(2-Chloro-pyridin-3-yl)-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline
The title compound was synthesized in substantially the same way as Example 1 by condensation of 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline with 3-bromo-2-chloro-pyridine.

reactant | 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | 3-bromo-2-chloro-pyridine | BrC=1C(=NC=CC1)Cl | C5H3BrClN
product | 2-(2-Chloro-pyridin-3-yl)-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | ClC1=NC=CC=C1N1CC2=CC=C(C=C2CC1)N1C[C@H](CC1)N1[C@H](CCC1)C | C23H29ClN4
